US07585891B2
Step C Synthesis of 2,2-dimethylbenzo[d]1,3-dioxolan-5-ol as an Intermediate
A solution of 0.6 gram (0.003 mole) of 2,2-dimethylbenzo[3,4-d]1,3-dioxolan-5-yl acetate in 5 mL of methanol was stirred and a solution of 1.1 grams (0.02 mole) of potassium hydroxide in 5 mL of water was added in one portion. Upon completion of addition the reaction mixture was stirred at ambient temperature during a two hour period. After this time the reaction mixture was diluted with 50 mL of water and acidified with concentrated hydrochloric acid. The mixture was then extracted with two 100 mL portions of ethyl acetate. The combined extracts were dried with sodium sulfate, filtered and concentrated under reduced pressure, yielding 0.36 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2,2-dimethylbenzo[3,4-d]1,3-dioxolan-5-yl acetate | 0.003 mole, 0.6 gram | C(C)(=O)OC1=CC2=C(OC(O2)(C)C)C=C1 | C11H12O4
reactant | potassium hydroxide | 0.02 mole, 1.1 grams | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 2,2-dimethylbenzo[d]1,3-dioxolan-5-ol | 0.36 gram | CC1(OC2=C(O1)C=CC(=C2)O)C | C9H10O3
